US08168639B2
3-carboethoxy-β-carboline or a derivative thereof (J in Scheme 4 above) is dissolved in a polar solvent (e.g., THF), and a reducing agent (e.g., NaBH4) is added to the solution. The mixture is stirred for a few hours and cooled. An excess of water is then added, and the mixture is stirred for another few hours. The solvent is thereafter evaporated and the resulting residue is dissolved in water, washed several times with one or more non-polar solvents such as dichloromethane and ethyl acetate, and the combined organic extracts are then evaporated. The remaining residue is purified by column chromatography (e.g., on a silica gel with elution by a 9:1 mixture of ethylacetate and methanol), to give a 3-hydroxymethyl-β-carboline intermediate.

reactant | 3-carboethoxy-β-carboline | C(=O)(OCC)C=1N=CC=2NC3=CC=CC=C3C2C1 | C14H12N2O2
reactant | THF | C1CCOC1 | C4H8O
reactant | NaBH4 | [BH4-].[Na+]
solvent | water | O | H2O
product | 3-hydroxymethyl-β-carboline | OCC=1N=CC=2NC3=CC=CC=C3C2C1 | C12H10N2O
